Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
Prosthetic Joint Infection
 
Major Surgical or Invasive Procedure:
___ Explant of Right hip prosthesis and placement of an 
antibiotic spacer
___ RUE ___ placement
 
History of Present Illness:
HPI(4): Mr. ___ is a ___ male with history of  
___, AF on Coumadin, CKD and recurrent right prosthetic hip 
infections requiring multiple revisions most recently s/p total 
right hip replacement in ___ now presenting with recurrent PJI 
with fluid aspirate growing pseudomonas. He was transferred from 
___ for planned washout and likely removal of hardware with 
ortho on ___. Course complicate by hypotension now 
resolved, ___ on CKD with likely ATN now improving, and 
decompensated heart failure with profound acute on chronic 
lymphedema and scrotal swelling. 

OSH Course: patient initially presented to ___ on 
___ with generalized weakness and recurrent falls. He was found 
to be hypotensive with leukocytosis to 23 and bandemia with 
poorly healing surgical wound at site of left hip replacement 
(most recently in ___ and active purulent drainage and 
erythema with fluid collection noted on CT scan. He underwent 
ultrasound guided aspiration of joint fluid the next day with 
fluid culture positive for pseudomonas sensitive to cefepime but 
has been continued on broad spectrum coverage with cefepime, 
linezolid and fluconazole since admission. He required fluid 
rescuscitation on admission for hypotension despite profound 
volume overload and ongoing decompensated heart failure with ___ 
on on CKD with peak Cr of 4 felt to have a component of 
non-oliguric ATN which has been slowly improving. Prior to this 
admission, his outpatient cardiologist had been increasing his 
home diuretic therapy for acute on chronic diastolic heart 
failure with severe TR though without adequate response. 

ROS: Pertinent positives and negatives as noted in the HPI. All 
other systems were reviewed and are negative. 
 
Past Medical History:
h/o PJI of hip, R - multiple infexns requiring prosthetic  
removal, spacer placement and recent total hip arthroplasty in 
___ at ___ with Dr. ___
OSA on CPAP
AF on Coumadin (last dose ___
T2DM
HTN
BPH
Gout 
Chronic ___ lymphedema
Chronic diastolic Heart failure - chronic right sided heart 
failure
Severe TR
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: Temp: 98.4, BP: 168/74, HR: 91, RR: 18, O2 sat: 95% on 
RA
___: Weight: 276 lbs, BMI: 43.2
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema. Oropharynx without 
visible lesion, erythema or exudate
CV: Heart irregular, soft ejection murmur, no S3, no S4.  No 
JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally. Breathing is non-labored
GI: Abdomen softly distended, non-tender to palpation. Bowel 
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly 
symmetric
SKIN: extensive chronic venous stasis to bilateral ___, 3+ 
edema with scrotal swelling, skin weeping, open surgical wound 
to left hip with scant purulent drainage, though per RN report 
was soaked through dressing on arrival.
NEURO: Alert, oriented, face symmetric, speech fluent, moves all 
limbs
PSYCH: pleasant, appropriate affect

DEATH EXAM:
No heart or lung exams after auscultating for 60 seconds. Does 
not withdraw to painful stimuli. No corneal reflex. Pupils fixed 
and dilated. No carotid pulse.

DISCHARGE PHYSICAL EXAM:

 
Pertinent Results:
OSH LABS: 
---------
___
 CBC: 12.1 > 9.1 / 30.3 <125
 Diff: 87.1% PMNs
 INR 1.5
 BMP: 139 / 3.4 > 103 / 24 < 81 / 2.58; gluc 113, eGFR 24, Ca 
9.5, 

___
 CBC: 14.3 > 9.4 / 30.2 < 142
 INR 1.6
 BMP: 138 / 3.7 > 102 / 22 < 82 / 2.87; eGFR 22, gluc 111, Ca 
9.3, phos 3.1
 LFP: ALT 11, AST 13, ALP 116, Albumin 1.9, Tptn 5.6, Tbili 0.8, 
Uric acid 9.1
 Ferritin 135, Iron 16, TIBC 237, Tsat 6.8%
 B12 919, folate 4.4
 ___ IgM nonreactive
 HepB cIgM nonreactive
 HepB sAg nonreactive
 Hep C Ab nonreactive
 C3 102
 C4 27

Admission Labs: 
 CBC: 21 > 39 < 173; 40% bands
 Cr 2.73
 trp 0.095
 UA "positive for UTI"
 INR 2
 ESR 110
 ANCA, SPEP/UPEP: PENDING

ADMISSION LABS:
----------------
___ 09:45PM BLOOD WBC-12.4* RBC-3.49* Hgb-9.9* Hct-33.8* 
MCV-97 MCH-28.4 MCHC-29.3* RDW-18.4* RDWSD-64.0* Plt ___
___ 05:52AM BLOOD Neuts-85.6* Lymphs-4.0* Monos-7.7 Eos-1.4 
Baso-0.1 Im ___ AbsNeut-10.40* AbsLymp-0.49* AbsMono-0.94* 
AbsEos-0.17 AbsBaso-0.01
___ 09:45PM BLOOD ___ PTT-34.1 ___
___ 09:45PM BLOOD Plt ___
___ 09:45PM BLOOD Glucose-113* UreaN-72* Creat-2.2* Na-139 
K-4.0 Cl-100 HCO3-24 AnGap-15
___ 05:52AM BLOOD ALT-7 AST-17 LD(LDH)-150 AlkPhos-221* 
Amylase-36 TotBili-1.0
___ 05:52AM BLOOD Lipase-34
___ 05:52AM BLOOD Albumin-3.0* Calcium-9.7 Phos-3.2 Mg-2.0

INTERIM LABS:
-------------
___ 09:11PM BLOOD Glucose-105* UreaN-88* Creat-5.0* Na-132* 
K-5.6* Cl-88* HCO3-26 AnGap-18
___ 06:14AM BLOOD ALT-7 AST-18 LD(LDH)-222 AlkPhos-251* 
TotBili-1.0
___ 03:28PM BLOOD CK-MB-<1 cTropnT-0.05*
___ 07:35AM BLOOD TSH-3.9
___ 07:35AM BLOOD Free T4-1.5
___ 06:14AM BLOOD CRP->300
___ 05:26AM BLOOD CRP-158.3*

OSH MICRO:
___ OSH R hip wound Cx: pseudomonas aeruginosa and serratia. 
Serratia R to cefazolin, otherwise pan-sensitive. PsA ___ to 
amikacin, gent, tobra, cefepime, lveoflox, ciproflox, imipenamm 
zosyn. 

pending on transfer: UCx, BCx x2, wound Cx
 
___ MICRO:
-------------
___ 6:46 pm Foreign Body - Sonication Culture
      RIGHT TOTAL HIP IMPLANT. 

   Sonication culture, prosthetic joint (Final ___: 
      Reported to and read back by J.___ ___ 10:10AM. 
      SERRATIA MARCESCENS.    <16 CFU/10ML. 
         This result may not be clinically significant and 
should be
         interpreted in the context of microbe detected. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 
         Piperacillin/Tazobactam test result performed by ___ 
___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             SERRATIA MARCESCENS
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----       S
TOBRAMYCIN------------     2 S
TRIMETHOPRIM/SULFA----   <=1 S

ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

OSH IMAGING
--------------
- ___  OSH CT R hip W/O contrast: Intramuscular fluid collection 
of the lateral right proximal thigh contiguous with the fracture 
plane of the displaced right greater trochanter which 
demonstrates findings of osteolysis likely from infection. There 
is an additional large superficial fluid collection of the 
lateral thigh.

___ IMAGING:
----------------
TTE ___: 
The left atrium is moderately dilated. The right atrium is 
moderately enlarged. There is no evidence for an atrial septal 
defect by 2D/color Doppler. The estimated right atrial pressure 
is >15mmHg. There is normal left ventricular wall thickness with 
a normal cavity size. There is normal regional left ventricular 
systolic function. There is no resting left ventricular outflow 
tract gradient. Moderately dilated right ventricular cavity with 
moderate global free wall hypokinesis (Fractional Area Change 
30%; normal >35%). Intrinsic right ventricular systolic function 
is likely lower due to the severity of tricuspid regurgitation. 
There is abnormal interventricular septal motion c/w right 
ventricular volume overload. The aortic sinus diameter is normal 
for gender with normal ascending aorta diameter for gender. The 
aortic valve leaflets (3) are mildly thickened. There is minimal 
aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets are mildly thickened with no mitral valve 
prolapse. There is mild [1+] mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal with leaflets that 
fail to fully coapt. There is severe [4+] tricuspid 
regurgitation. There is SEVERE pulmonary artery systolic 
hypertension. In the setting of at least moderate to severe 
tricuspid regurgitation, the pulmonary artery systolic pressure 
may be UNDERestimated. There is a trivial pericardial effusion. 
IMPRESSION: Normal left ventricular wall thickness, cavity size, 
and regional/global systolic function. Moderate right 
ventricular cavity dilation with at least moderate systolic 
dysfunction. Failure of the tricuspid leaflets to coapt fully 
with severe tricuspid regurgitation. Mild mitral regurgitation. 
Minimal aortic valve stenosis. Severe pulmonary artery systolic 
hypertension.

R FEMUR X-RAY ___:
There is a right total hip arthroplasty.  There is a displaced 
right greater trochanter fracture fragment.  Comparison old 
films would be helpful to establish if this is an interval 
change 

R PEVIS X-RAY ___:
Right total hip arthroplasty.  There is a displaced greater 
trochanter.  There is unclear this is an acute or chronic 
finding. 

RLE DOPPLER ___: No evidence of deep venous thrombosis in 
the right lower extremity veins.

TTE ___
The left atrium is moderately dilated. The right atrium is 
moderately enlarged. There is no evidence for an atrial septal 
defect by 2D/color Doppler. The estimated right atrial pressure 
is >15mmHg. There is normal left ventricular wall thickness with 
a normal cavity size. There is normal regional left ventricular 
systolic function. There is no resting left ventricular outflow 
tract gradient. SEVERELY dilated right ventricular cavity with 
low normal free wall motion. Intrinsic right ventricular 
systolic function is likely lower due to the severity of
tricuspid regurgitation. There is abnormal interventricular 
septal motion c/w right ventricular pressure and volume 
overload. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal with a normal descending aorta diameter. The 
aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve stenosis. The increased velocity is due to high 
stroke volume. There is no aortic regurgitation. The mitral 
valve leaflets are mildly thickened with no mitral valve
prolapse. There is mild [1+] mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is severe [4+] 
tricuspid regurgitation. There is SEVERE pulmonary artery 
systolic hypertension. In the setting of at least moderate to 
severe tricuspid regurgitation, the pulmonary artery systolic 
pressure may be UNDERestimated. There is no pericardial 
effusion. Compared with the prior TTE ___, the estimated 
pulmonary arterial pressure is greater, possibly related to 
technique. The right ventricular ___ are similar with 
similar severity of tricuspid regurgitation.

CXR ___
Lungs are clear.  Cardiomediastinal silhouette is stable.  
Right-sided PICC line projects to the distal SVC.  There is no 
pleural effusion.  No pneumothorax is seen.

Renal US ___
Multiple bilateral renal cysts.  No evidence of hydronephrosis 
or nephrolithiasis.

CT Right Leg ___. Large complex fluid collection extending from the right hip 
skin staples to surround the right femur following hardware 
explantation.  Findings are consistent with a large hematoma, 
however superinfection cannot be entirely excluded on this 
noncontrast examination.
2. Sequelae of total right hip arthroplasty and subsequent 
explantation with persistent acetabular protrusio and a 
periprosthetic fracture involving the femoral diaphysis.
3. Nonspecific partially calcified soft tissue density mass in 
the right inguinal canal of uncertain etiology.  Comparison with 
prior studies, if they can be made available, would be useful.  
Otherwise further evaluation with ultrasound is recommended.

Renal US ___
Multiple bilateral simple renal cysts.  No hydronephrosis on 
either side.

US Right Inguinal Region ___
Heterogeneous hypoechoic nonvascular and partially calcified 
mass in the right inguinal canal concordant with soft tissue 
mass seen on CT from ___, similar in size.  The etiology 
is indeterminate based on this study.  MR may be considered for 
further characterization.
 
Brief Hospital Course:
___ is ___ M with type II DM, HFpEF, AF on 
warfarin, CKD (Cr baseline ~1.1), and recurrent R prosthetic hip 
infections, admitted initially for septic prosthetic right hip, 
s/p explant of his right hip prosthesis and placement of an 
antibiotic spacer ___, with a long hospital course complicated 
by ___, acute on chronic HFpEF, and right hip hematoma.

Given his chronic issues and the multitude of complications 
during the hospitalization, Mr. ___ discussing with 
his partner ___ decided on ___ to be made CMO. Antibiotics 
were discontinued and all further therapeutics were held in 
favor of comfort care. His analgesic regimen was liberalized and 
he was started on IV lorazepam. On ___, he died of acute renal 
failure with his partner ___ at the bedside.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Fluconazole 200 mg PO Q24H 
3. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
4. MetFORMIN (Glucophage) 500 mg PO DAILY 
5. meloxicam 15 mg oral DAILY 
6. Furosemide 40 mg PO DAILY 
7. cloNIDine HCl 0.1 mg oral DAILY 
8. Tamsulosin 0.4 mg PO DAILY 
9. Allopurinol ___ mg PO BID 
10. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
11. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES TID 
12. Digoxin 0.125 mg PO ___ AND ___ 
13. Nystatin Cream 1 Appl TP BID 
14. Metoprolol Succinate XL 100 mg PO DAILY 
15. Warfarin 0.5-2 mg PO DAILY16 

 
Discharge Medications:
Death
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Death
 
Discharge Condition:
Death
 
Discharge Instructions:
Death
 
Followup Instructions:
___